US04859672
Treatment of 6-bromo-1,3-dimethylpyrido[2,3-d]pyrimidin-2,4-(1H,3H)-dione with trimethylstannyl acetone in the presence of a palladium catalyst such as palladium (II) acetate and a triarylphosphine such as tri-o-tolylphosphine in an anhydrous solvent such as benzene at temperatures between 50 degrees and 120 degrees C. will afford 6-(2'-oxoproply)-1,3-dimethylpyrido[2,3-d]pyrimidin-2,4-(1H,3H)-dione. Treatment of this material with N,N-dimethylformamide dimethylacetal in the presence of a catalytic amount of pyridine will afford 6-[1-N,N-dimethylamino-3'-oxobuten-2'-yl]-1,3-dimethylpyrido[2,3-d]pyrimidin-2,4-(1H,3H)-dione. Treatment of this material with cyanoacetamide in the presence of a base such as sodium hydride in a suitable solvent at temperatures between 30 degrees and 80 degrees C. will afford 6-[3'-cyano-6'-methyl-2'-oxo-1(H)pyridin-5'-yl]1,3-dimethylpyrido[2,3-d]pyrimidin-2,4-(1H,3H)-dione.

reactant | 6-bromo-1,3-dimethylpyrido[2,3-d]pyrimidin-2,4-(1H,3H)-dione | BrC1=CC2=C(N(C(N(C2=O)C)=O)C)N=C1 | C9H8BrN3O2
reactant | trimethylstannyl acetone | C[Sn](C)(C)CC(C)=O
reactant | tri-o-tolylphosphine | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
catalyst | palladium | [Pd] | Pd
catalyst | palladium (II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 6-(2'-oxoproply)-1,3-dimethylpyrido[2,3-d]pyrimidin-2,4-(1H,3H)-dione | O=C(CC1=CC2=C(N(C(N(C2=O)C)=O)C)N=C1)C | C12H13N3O3
